US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(thiazol-2-yl)-thiourea
Prepared using Method C from 3.0 g (16.3 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 1.7 g (16.3 mmol) of 2-amino-thiazole to give 3.58 g of title compound as a beige solid, m.p. 197-198° C. (77% yield).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 16.3 mmol, 3.0 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 2-amino-thiazole | 16.3 mmol, 1.7 g | NC=1SC=CN1 | C3H4N2S
product | 1-(5-Chloro-2-methyl-phenyl)-3-(thiazol-2-yl)-thiourea | 3.58 g, 77% yield | ClC=1C=CC(=C(C1)NC(=S)NC=1SC=CN1)C | C11H10ClN3S2
